US04554246
1-(3-Acetamidophenyl)-5-mercaptotetrazole (0.51 mol) (120 g) was dispersed in 450 ml of ethanol. While stirring the dispersion at room temperature, 300 ml of concentrated hydrochloric acid was added. They were further reacted at room temperature for 3 hours. At the end of the time, the reaction mixture was cooled with ice. Crystals thus precipitated were collected and washed with acetone to obtain 110 g of 1-(3-aminophenyl)-5-mercaptotetrazole hydrochloride. This amine hydrochloride was dispersed in 750 ml of acetonitrile, and 123 ml of triethylamine was added thereto. Then, 41.5 g of methyl chlorocarbonate was further added thereto at room temperature.

reactant | 1-(3-Acetamidophenyl)-5-mercaptotetrazole | 0.51 mol, 120 g | C(C)(=O)NC=1C=C(C=CC1)N1N=NN=C1S | C9H9N5OS
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 1-(3-aminophenyl)-5-mercaptotetrazole hydrochloride | 110 g | Cl.NC=1C=C(C=CC1)N1N=NN=C1S | InChI=1S/C7H7N5S.ClH/c8-5-2-1-3-6(4-5)12-7(13)9-10-11-12;/h1-4H,8H2,(H,9,11,13);1H
